US08097620B2
Method 14. Preparation of 6-((Carboxymethyl)carbamoyl)-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-3-carboxylic acid
6-((2-tert-Butoxy-2-oxoethyl)carbamoyl)-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-3-carboxylic acid. The title compound is prepared by a palladium catalyzed carbonylation reaction of tert-butyl 2-(3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetate according to the procedure of Tsuji, J., Palladium Reagents and catalysts: Innovations in Organic Synthesis Publisher: (Wiley, Chichester, UK), 340-45 (1995).

reactant | 6-((2-tert-Butoxy-2-oxoethyl)carbamoyl)-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-3-carboxylic acid | C(C)(C)(C)OC(CNC(=O)C1=C(C2=C(N=NC(=C2)C(=O)O)N(C1=O)C)O)=O | C16H18N4O7
reactant | tert-butyl 2-(3-chloro-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-6-carboxamido)acetate | ClC1=CC2=C(N=N1)N(C(C(=C2O)C(=O)NCC(=O)OC(C)(C)C)=O)C | C15H17ClN4O5
catalyst | palladium | [Pd] | Pd
product | 6-((Carboxymethyl)carbamoyl)-5-hydroxy-8-methyl-7-oxo-7,8-dihydropyrido[2,3-c]pyridazine-3-carboxylic acid | C(=O)(O)CNC(=O)C1=C(C2=C(N=NC(=C2)C(=O)O)N(C1=O)C)O | C12H10N4O7
